US04195038
The above crude, 2,3,5,6-tetrabromo-2,6-dimethyl-4-heptanone was dissolved in 200 ml. of methylene chloride and the solution was cooled to about -10° C. with an ice-methanol bath. To this solution, 250 ml of pyridine was added under a nitrogen atmosphere. The mixture was stirred about fifteen hours while the temperature was maintained at less than 25° C. The reaction mixture was poured into 800 ml of 15% solution of sulfuric acid in ice water (prepared by the addition of ice to 400 ml of 30% of sulfuric acid solution until the total volume reached 800 ml). The aqueous layer was extracted with three 150 ml portions of methylene chloride. The combined methylene chloride extracts were washed with two 250 ml portions of 30% aqueous sulfuric acid and then with three 300 ml portions of water, dried over anhydrous sodium sulfate and evaporated under reduced pressure (pot temperature less than 50° C.). 3,5-Dibromo-2,6-dimethyl-2,5-heptadiene-4-one (wt. 157.75 g) was obtained as a light brown oil containing about 8% solvent.

reactant | 2,3,5,6-tetrabromo-2,6-dimethyl-4-heptanone | BrC(C)(C(C(C(C(C)(C)Br)Br)=O)Br)C | C9H14Br4O
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sulfuric acid | 400 ml | S(O)(O)(=O)=O | H2O4S
solvent | pyridine | 250 ml | N1=CC=CC=C1 | C5H5N
product | 3,5-Dibromo-2,6-dimethyl-2,5-heptadiene-4-one | 157.75 g | BrC(=C(C)C)C(C(=C(C)C)Br)=O | C9H12Br2O
